US03954998
Preparation of 4-Methoxy-2-(2', 6'-Dichlorophenyl)indan-1,3-dione
A solution of 2,6-dichlorobenzaldehyde (5.98 grams, 0.034 mole) and 4-methoxyphthalide (5.6 grams, 0.34 mole) in 20.5 milliliters of ethyl acetate was added to a solution of sodium methoxide in methanol (prepared from 2.36 grams of sodium metal and 34 milliliters of methanol). The mixture was then heated under reflux for 1 hour. The bulk of the ethyl acetate and methanol was removed under reduced pressure. The residue was dissolved in water and the solution filtered from insoluble material. Acidification of the filtered alkaline solution afforded 9.0 grams of a yellow solid which was recrystallized from ethanol to give 6.5 grams (59.3%) of the title compound, melting point 163°-165°C. Calc'd: C, 59.83, H, 3.14; Found: C, 59.55, H, 3.19.

reactant | 2,6-dichlorobenzaldehyde | 0.034 mole, 5.98 grams | ClC1=C(C=O)C(=CC=C1)Cl | C7H4Cl2O
reactant | 4-methoxyphthalide | 0.34 mole, 5.6 grams | COC1=C2COC(=O)C2=CC=C1 | C9H8O3
reactant | sodium methoxide | C[O-].[Na+]
solvent | ethyl acetate | 20.5 milliliters | C(C)(=O)OCC | C4H8O2
solvent | methanol | 34 milliliters, 2.36 grams | CO | CH4O
product | 4-Methoxy-2-(2', 6'-Dichlorophenyl)indan-1,3-dione | 9.0 grams | COC1=C2C(C(C(C2=CC=C1)=O)C1=C(C=CC=C1Cl)Cl)=O | C16H10Cl2O3
